US03953496
By the procedure similar to that described in Example 23, 2-(2' -acetoxybenzamido)-4-aminobenzoic acid and 2-methoxybenzoylchloride were allowed to react and were treated to obtain crude crystals. Recrystallization from ethanol gave 2-(2'-acetoxybenzamido)-4-(2'-methoxybenzamido)-benzoic acid having a melting point between 197° - 198°C.

reactant | 2-(2' -acetoxybenzamido)-4-aminobenzoic acid | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)N)C=CC=C1 | C16H14N2O5
reactant | 2-methoxybenzoylchloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | 2-(2'-acetoxybenzamido)-4-(2'-methoxybenzamido)-benzoic acid | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(C2=C(C=CC=C2)OC)=O)C=CC=C1 | C24H20N2O7
